US05278161
In a manner analogous to Example 1, by condensing 2-benzyl-3-hydrazino-6-(3-pyridyl)pyrazine with diethyl malonate there is obtained ethyl 8-benzyl-6-(3-pyridyl)-s-triazolo[4,3-a]pyrazine-3-acetate, which is converted by basic saponification into the above acid, MS: 301 (M-CO2)+.

reactant | 2-benzyl-3-hydrazino-6-(3-pyridyl)pyrazine | C(C1=CC=CC=C1)C1=NC(=CN=C1NN)C=1C=NC=CC1 | C16H15N5
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | ethyl 8-benzyl-6-(3-pyridyl)-s-triazolo[4,3-a]pyrazine-3-acetate | C(C1=CC=CC=C1)C=1C=2N(C=C(N1)C=1C=NC=CC1)C(=NN2)CC(=O)OCC | C21H19N5O2
